US05493028
5 g of PCl3 were added to 25 mL of DMF at room temperature. The resulting yellow solution was saturated with anhydrous HCl while keeping the temperature below 90° C. 5 g (18 mmol) of methyl-2-chloro-2-cyano-4-phenyl-5-oxopentanoate in 5 mL DMF were added at 80° C. and the resulting solution heated at 90° C. for 90 min. The reaction mixture was cooled to room temperature, quenched with water, extracted with toluene, dried and distilled to give methyl 2-chloro-5-phenyl-3-pyridine carboxylate.

reactant | PCl3 | 5 g | P(Cl)(Cl)Cl | Cl3P
reactant | HCl | Cl | ClH
reactant | methyl-2-chloro-2-cyano-4-phenyl-5-oxopentanoate | 18 mmol, 5 g | COC(C(CC(C=O)C1=CC=CC=C1)(C#N)Cl)=O | C13H12ClNO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | methyl 2-chloro-5-phenyl-3-pyridine carboxylate | ClC1=NC=C(C=C1C(=O)OC)C1=CC=CC=C1 | C13H10ClNO2
